US04311705
4,4-Diethoxycarbonyl-2-methylbutyric acid benzyl ester [prepared by Michael condensation of benzylmethacrylate and malonic ester as per J. Am. Chem. Soc., 52, 4598 (1930)] (3.36 g, 10 mmole) is added to a solution of 0.23 g of sodium in ethanol (3 ml) chilled to 10° C. Butyl iodide (1.85 g, 10 mmoles) is added and the mixture is refluxed for four hours. The solvent is removed in vacuo and the mixture is distilled in vacuo to yield 4,4-diethoxycarbonyl-2-methyloctanoic acid benzyl ester.

reactant | 4,4-Diethoxycarbonyl-2-methylbutyric acid benzyl ester | 10 mmole, 3.36 g | C(C1=CC=CC=C1)OC(C(CC(C(=O)OCC)C(=O)OCC)C)=O | C18H24O6
reactant | sodium | 0.23 g | [Na] | Na
reactant | Butyl iodide | 10 mmoles, 1.85 g | C(CCC)I | C4H9I
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 4,4-diethoxycarbonyl-2-methyloctanoic acid benzyl ester | C(C1=CC=CC=C1)OC(C(CC(CCCC)(C(=O)OCC)C(=O)OCC)C)=O | C22H32O6
